US04778577
A mixture of the disodium salt of N-benzylazetidine-3,3-dicarboxylic acid and sodium carbonate (approximately 2:1 by weight, total weight 7.5 g) were dissolved in 100 ml of a toluene-acetic acid mixture (2/1, v/v), with immediate evolution of carbon dioxide from the sodium carbonate. The mixture was warmed and stirred, and then refluxed over a Dean and Stark water separator. After 1/2 hour evolution of carbon dioxide had ceased and 1.5 ml of an acetic acid-water mixture had separated. The slightly hazy solution was cooled to room temperature. A white fluffy solid comprising sodium acetate (3.6 ) g) was removed by filtration. Distillation of the clear filtrate yielded 4.5 g of N-benzyl-3-carboxy-azetidine.

reactant | disodium | [Na][Na] | 2Na
reactant | N-benzylazetidine-3,3-dicarboxylic acid | C(C1=CC=CC=C1)N1CC(C1)(C(=O)O)C(=O)O | C12H13NO4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | toluene-acetic acid | 100 ml | C=1(C(=CC=CC1)CC(=O)O)C | C9H10O2
solvent | water | O | H2O
product | N-benzyl-3-carboxy-azetidine | 4.5 g | C(C1=CC=CC=C1)N1CC(C1)C(=O)O | C11H13NO2
